Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
___ - Mitral valve repair with 30mm ___ annuloplasty 
band
 
History of Present Illness:
Ms. ___ is an ___ year old woman with a history of 
hypertension, mitral regurgitation, pulmonary hypertension, and 
rectal cancer status post resection. She has been followed with 
serial echocardiograms. A transthoracic echocardiogram in ___ 
revealed moderate left atrial enlargement, severe mitral 
regurgitation and prolapse of the anterior and posterior 
leaflets with possible flail of the posterior leaflet. A stress 
echocardiogram demonstrated poor exercise tolerance, severe 
mitral regurgitation, and exercise-induced pulmonary
hypertension. A cardiac catheterization revealed no obstructive 
coronary artery disease. She was seen initially by Dr. ___ 
in ___ and required clearance from endocrine and oncology 
prior to proceeding with surgery, which she obtained.
 
Past Medical History:
Acute Renal Failure during Chemo
Basal Cell Carcinoma
Cervical Polyps
Hyperparathyroid
Hypertension
Mitral Regurgitation
Pulmonary Hypertension
Rectal Cancer status post resection, chemo and radiation
Vitamin B12 Deficiency

 
Social History:
___
Family History:
Mother - died of stroke at age ___
Father - died of myocardial infarction at age ___
Brother - history of myocardial infarction at age ___
Sister - history of myocardial infarction.

 
Physical Exam:
BP: 160/98. Heart Rate: 69. Resp. Rate: 12. O2 Saturation%: 100.
Height: 60"  Weight: 94 lbs

General: Frail, elderly woman, NAD
Skin: Warm, dry, intact
HEENT: NCAT, PERRLA, EOMI, OP benign
Neck: Supple, full ROM, no JVD
Chest: Lungs clear bilaterally
Heart: Regular rate and rhythm, II/VI HSM heard best at apex
Abdomen: Well-healed incision. Normal BS, non-tender, 
non-distended
Extremities: Warm, well-perfused, no edema
Varicosities: None
Neuro: Grossly intact 
Pulses:
Femoral      Right: 2+  Left: 2+
DP           Right: 2+  Left: 2+
___           Right: 2+  Left: 2+
Radial       Right: 2+  Left: 2+

Carotid Bruit: None appreciated

 
Pertinent Results:
Transesophageal Echocardiogram ___
PREBYPASS 
No atrial septal defect is seen by 2D or color Doppler. Left 
ventricular wall thicknesses are normal. The left ventricular 
cavity size is normal. Regional left ventricular wall motion is 
normal. Overall left ventricular systolic function is normal 
(LVEF>55%). [Intrinsic left ventricular systolic function is 
likely more depressed given the severity of valvular 
regurgitation.] Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) are mildly 
thickened. No aortic regurgitation is seen. The mitral valve 
leaflets are moderately thickened. The mitral valve leaflets are 
myxomatous. There is moderate/severe bileaflet leaflet mitral 
valve prolapse (P2 and A3)

___ 07:30AM BLOOD WBC-8.4 RBC-3.63* Hgb-10.5* Hct-32.9* 
MCV-91 MCH-28.9 MCHC-31.9* RDW-13.2 RDWSD-44.1 Plt ___
___ 10:04AM BLOOD WBC-3.2* RBC-2.95*# Hgb-8.8*# Hct-27.3*# 
MCV-93 MCH-29.8 MCHC-32.2 RDW-13.9 RDWSD-47.1* Plt ___
___ 07:30AM BLOOD Plt ___
___ 07:30AM BLOOD ___
___ 10:04AM BLOOD ___ PTT-62.8* ___
___ 07:30AM BLOOD Glucose-90 UreaN-13 Creat-0.7 Na-140 
K-4.2 Cl-107 HCO3-24 AnGap-13
___ 11:15AM BLOOD UreaN-14 Creat-0.6 Na-141 K-4.4 Cl-111* 
HCO3-23 AnGap-11
___ 06:30AM BLOOD Calcium-9.8 Phos-3.3 Mg-2.0
___ 03:20AM BLOOD Calcium-8.6 Phos-2.9 Mg-2.2
 
Brief Hospital Course:
Ms. ___ was admitted on ___ and was taken to the 
operating room. She underwent a mitral valve repair. Please see 
the operative note for full details. She tolerated the procedure 
well and was transferred to the CVICU in stable condition for 
recovery and invasive monitoring. 
  
Ms. ___ weaned from sedation, awoke neurologically intact 
and was extubated on POD 1. She was weaned from inotropic and 
vasopressor support. She arrived to the intensive care unit 
without a cardiac rhythm under her temporary pacing wires. Beta 
blockade was therefore held and with time her rhythm slowly 
recovered. She was diuresed toward her preoperative weight. She 
remained hemodynamically stable and was transferred to the 
telemetry floor for further recovery. She was evaluated by the 
physical therapy service for assistance with strength and 
mobility. She was noted for junctional rhythm and betablockers 
were stopped.  EP was consulted over few days her rhythm 
returned to sinus rhythm and was restarted on betablocker.  
Epicardial wires were removed and she was discharge home with 
services.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Metoprolol Tartrate 50 mg PO BID 
4. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN cp 
5. Simvastatin 10 mg PO QPM 
6. Cyanocobalamin 1000 mcg IM/SC EVERY 4  WEEKS (MO) 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Lisinopril 7.5 mg PO DAILY 
RX *lisinopril 2.5 mg 3 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*1
3. Metoprolol Tartrate 12.5 mg PO TID 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
three times a day Disp #*45 Tablet Refills:*1
4. Simvastatin 10 mg PO QPM 
5. Acetaminophen 650 mg PO Q8H:PRN pain 
6. Docusate Sodium 100 mg PO BID 
7. Cyanocobalamin 1000 mcg IM/SC EVERY 4  WEEKS (MO) 
8. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN cp 
9. Furosemide 20 mg PO DAILY Duration: 5 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth once a day Disp #*5 
Tablet Refills:*0
10. Ranitidine 150 mg PO DAILY 
RX *ranitidine HCl [Heartburn Relief (ranitidine)] 150 mg 1 
tablet(s) by mouth daily Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Mitral Regurgitation s/p Mitral Valve repair 
Junctional Rhythm 

Secondary Diagnosis
Acute Renal Failure during Chemo
Basal Cell Carcinoma
Cervical Polyps
Hyperparathyroid
Hypertension
Pulmonary Hypertension
Rectal Cancer status post resection, chemo and radiation
Vitamin B12 Deficiency

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with acetaminophen 
Sternal Incision - healing well, no erythema or drainage
No edema

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
 
Followup Instructions:
___